US06562807B2
4-[3-[1(S)-(4-Chlorophenyl)ethyl]-1-(4-cyclohexylphenyl)ureidomethyl benzoic Acid
4-[3-[1(S)-(4-Chlorophenyl)ethyl]-1-(4-cyclohexylphenyl)ureidomethyl]benzoic acid methyl ester (35.0 g, 69.3 mmol) was dissolved in ethanol (400 mL). 4 N aqueous sodium hydroxide (100 mL) was added and the clear solution was stirred at room temperature for 3 hours. The solution was neutralised with 4 N hydrochloric acid (100 mL), and placed upon an ice bath to initiate crystallization. The crystals were collected, washed extensively with water, and dried in vacuo overnight. Yield: 34.25 g (100%).

reactant | 4-[3-[1(S)-(4-Chlorophenyl)ethyl]-1-(4-cyclohexylphenyl)ureidomethyl]benzoic acid methyl ester | 69.3 mmol, 35.0 g | COC(C1=CC=C(C=C1)CN(C(=O)N[C@@H](C)C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)C1CCCCC1)=O | C30H33ClN2O3
reactant | sodium hydroxide | 4 N, 100 mL | [OH-].[Na+]
reactant | hydrochloric acid | 4 N, 100 mL | Cl | ClH
reactant | ethanol | 400 mL | C(C)O | C2H6O
product | 3-[1(S)-(4-Chlorophenyl)ethyl]-1-(4-cyclohexylphenyl)ureidomethyl benzoic Acid | ClC1=CC=C(C=C1)[C@H](C)C=1C(=C(C(=O)O)C=CC1)CN(C(=O)N)C1=CC=C(C=C1)C1CCCCC1 | C29H31ClN2O3
